US07585882B2
Methyl (4S)-4-(3-cyclopentyloxy-4-methoxyphenyl)-2-pyrrolidone-1-acetate (250 mg, 0.72 mmol) was treated with 8 mL of a 1M solution of potassium hydroxide in 95% methanol. After 10 hours, the reaction solution was acidified with 2N HCl to pH 3, and 30 mL of water was added. The resulting mixture was then extracted with ethyl acetate (2×60 mL) and the organic layer was concentrated. Chromatographic purification (methanol/dichloromethane 5:100) afforded 242 mg (quantitative yield) of 4-(3-cyclopentyloxy-4-methoxyphenyl)-2-pyrrolidone-1-acetic acid: 1H NMR (300 MHz, CDCl3) δ 6.85-73 (m, 3H), 4.84-4.74 (m, 1H), 4.20 (d, J=12.0 Hz, 1H), 4.12 (d, J=12.0, 1H), 3.82 (s, 4H), 3.66-3.46 (m, 2H), 2.89 (dd, J=16.8, 8.7 Hz, 1H), 2.58 (dd, J=16.8, 8.4 Hz, 1H), 2.00-1.72 (b, 6H), 1.70-1.50 (b, 2H).

reactant | Methyl (4S)-4-(3-cyclopentyloxy-4-methoxyphenyl)-2-pyrrolidone-1-acetate | 0.72 mmol, 250 mg | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CC(N(C1)CC(=O)OC)=O | C19H25NO5
reactant | potassium hydroxide | [OH-].[K+]
reactant | HCl | 2N | Cl | ClH
reactant | water | 30 mL | O | H2O
solvent | methanol | CO | CH4O
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-2-pyrrolidone-1-acetic acid | 242 mg, quantitative yield | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(N(C1)CC(=O)O)=O | C18H23NO5
